* C:\Users\aldum\OneDrive\Escritorio\FIUBA\Diseño de Circuitos Electrónicos\Proyecto\DCE\simulaciones\500ma\modelo_1_1\triangular.asc
V3 N001 0 1.2
R2 N001 N004 1k
R3 N004 0 3k3
R4 N004 N003 100k
XU2 N002 N004 N003 opamp Aol=100K GBW=10Meg
V4 N002 0 PULSE(0 5 0 500u 500u 1p 1m 100k)
R5 N003 0 1k
.tran 20m
.inc opamp.sub
.backanno
.end
